* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADG5206.asc
* Generated by LTspice 24.1.9 for Windows.
V18 N001 0 15
V17 N002 0 -15
V19 EN 0 PULSE(0 5 0 10n 10n 10u 20u)
R1 D 0 301
C1 N001 0 0.1µ
C2 N002 0 0.1µ
C3 D 0 36p
X§U1 N001 S16 S15 S14 S13 S12 S11 S10 S9 0 A3 A2 A1 A0 EN S1 S2 S3 S4 S5 S6 S7 S8 N002 D ADG5206
V1 S1 0 1
V2 S2 0 2
V3 S3 0 3
V4 S4 0 4
V5 S9 0 0
V6 S10 0 5
V7 S5 0 1
V8 S6 0 2
V9 S7 0 3
V10 S8 0 4
V11 S11 0 1
V12 S12 0 2
V13 S13 0 3
V14 S14 0 4
V15 A2 0 0
V16 S15 0 1
V20 S16 0 2
V21 A0 0 3
V22 A1 0 4
V23 A3 0 0
.tran 100u
* Notes:\nCharge injection not included
.lib ADG5206.sub
.backanno
.end
